US04743290
4-Propylthio-3-bromothiophene
A solution of 199 mL of 2.18M n-butyllithium in 320 mL ether was cooled to -80° C. and was treated dropwise with a solution of 100 g 3,4-dibromothiophene in 320 mL ether keeping the temperature below -70° C. After stirring another 30 minutes at -80° C. a solution of 94 mL dipropyl disulfide in 120 mL ether was added dropwise. The suspension was stirred at -80° C. for 2 hours, warmed to 20° C., poured into ice and hydrochloric acid and the organic phase was separated. The aqueous phase was extracted 2 times with ethyl acetate and the combined organic phases were washed with brine, dried (MgSO4) and concentrated to an amber oil. The product (90.2 g) was isolated by distillation of the residue; bp 93°-96° C. at 0.5 torr.

reactant | n-butyllithium | 2.18M, 199 mL | C(CCC)[Li]
reactant | 3,4-dibromothiophene | 100 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | dipropyl disulfide | 94 mL | C(CC)SSCCC | C6H14S2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 320 mL | CCOCC | C4H10O
solvent | ether | 320 mL | CCOCC | C4H10O
solvent | ether | 120 mL | CCOCC | C4H10O
product | 4-Propylthio-3-bromothiophene | 90.2 g | C(CC)SC=1C(=CSC1)Br | C7H9BrS2
